US07816371B2
a. 2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)acetamide
A round bottom flask was charged with 5-nitro-isochromen-1-one (2.5 g, 0.013 mol), methanol (50 mL, 1 mol), glycinamide hydrochloride (3.0 g, 0.027 mol) and triethylaluminum (4.4 mL, 0.033 mol) and heated at 85° C. for 3 hours. The solvent was removed under reduced pressure to get the product as a yellow solid. MS m/z=248.2 (M+H).

reactant | 5-nitro-isochromen-1-one | 0.013 mol, 2.5 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | methanol | 1 mol, 50 mL | CO | CH4O
reactant | glycinamide hydrochloride | 0.027 mol, 3.0 g | Cl.NCC(=O)N
reactant | triethylaluminum | 0.033 mol, 4.4 mL | C(C)[Al](CC)CC
product | 2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)acetamide | [N+](=O)([O-])C1=C2C=CN(C(C2=CC=C1)=O)CC(=O)N | C11H9N3O4
